US06136831
The procedure of Example 9 was repeated using 1-(6-fluoro-5-methylbenzothiazol-2-yl)-4,4,4-trifluorobutane-1,3-dione and 4-methylsulfonylphenylhydrazine hydrochloride as the starting materials to obtain 6-fluoro-5-methyl-2-[1-(4-methylsulfonylphenyl)-3-trifluoromethyl-1H-pyrazol-5-yl]-benzothiazole (yield, 41%).

reactant | 1-(6-fluoro-5-methylbenzothiazol-2-yl)-4,4,4-trifluorobutane-1,3-dione | FC1=CC2=C(N=C(S2)C(CC(C(F)(F)F)=O)=O)C=C1C | C12H7F4NO2S
reactant | 4-methylsulfonylphenylhydrazine hydrochloride | Cl.CS(=O)(=O)C1=CC=C(C=C1)NN
product | 6-fluoro-5-methyl-2-[1-(4-methylsulfonylphenyl)-3-trifluoromethyl-1H-pyrazol-5-yl]-benzothiazole | 41% | FC1=CC2=C(N=C(S2)C2=CC(=NN2C2=CC=C(C=C2)S(=O)(=O)C)C(F)(F)F)C=C1C | C19H13F4N3O2S2
